* RV1C001ZP PMOSFET model
* Model Generated by ROHM
* All Rights Reserved
* Commercial Use or
* Resale Restricted
* Date: 2011/11/24
******************D G S
.SUBCKT RV1C001ZP 1 2 3
M1   11 22 3 3 MOS_P
D1         1 3 DDS
R1        1 11 RTH 1.73
D2       11 22 DDG
R2        2 22 11.1k
.MODEL MOS_P PMOS
+ LEVEL=3
+ L=2.0000E-6
+ W=.1
+ KP=7.1502E-6
+ RS=10.000E-3
+ RD=0
+ VTO=-.85728
+ RDS=20.000E6
+ TOX=2.0000E-6
+ CGSO=100p
+ CGDO=10p
+ CBD=0
+ RG=0
+ N=2
+ RB=1.0000E-3
+ GAMMA=0.3
+ ETA=0.001
+ KAPPA=0
+ UO=300
+ NFS=9G
.MODEL DDS D
+ IS=8.0143E-12
+ N=1.3527
+ RS=.1037
+ IKF=39.234E-3
+ CJO=7.0358E-12
+ M=.39066
+ VJ=.76134
+ BV=20
+ TT=27n
.MODEL DDG D
+ CJO=1.6093E-12
+ M=.43972
+ VJ=.75339
+ N=10000
+ FC=0.5
.MODEL RTH RES
+ TC1=0.0033
+ TC2=-0.000008
.ENDS RV1C001ZP
